US05428021
A solution of 4.0 g (20.4 mmoles) of 5-nitro-6-methyl-2-aminobenzoic acid in 50 mL of dry pyridine was cooled in an ice-water bath under inert atmosphere. Ethyl chloroformate (Aldrich), 10 mL (105 mmoles), was added dropwise over a 15 minute period. A mild exotherm was observed and a solid separated from solution immediately upon addition. The suspension was stirred at room temperature under inert atmosphere overnight. Approximately half the pyridine was removed in vacuo, and the residual mixture poured over ice. The precipitated solid was collected and air-dried. 4.0 g (79% yield) 6-nitro-5-methyl-2-ethoxy-3,1-benzoxazin-4-one was obtained. NMR (DMSO-d6): 1.37(t,3H,J=7.2 Hz), 2.71(s,3H), 4.50(q,2H,J=7.2 Hz), 7.40(d,1H, J=9.0 Hz), 8.19(d,1H,J=9.0 Hz). IR(nujol): 1765 cm-1 (lactone carbonyl). MS(m/z): 250(M+).

reactant | 5-nitro-6-methyl-2-aminobenzoic acid | 20.4 mmoles, 4.0 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1C)N | C8H8N2O4
reactant | Ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 6-nitro-5-methyl-2-ethoxy-3,1-benzoxazin-4-one | 4.0 g, 79% yield | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)OCC)=O)C1C | C11H10N2O5
